US08022223B2
tert-Butyl 2-oxo-2-(4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidin-1-yl)ethylcarbamate
3-Phenoxy-N-(3-(piperidin-4-yl)-1,2,4-thiadiazol-5-yl)-5-(pyridin-2-ylthio)pyridin-2-amine (0.100 g, 0.2162 mmol), 2-(tert-butoxycarbonyl)acetic acid (0.04544 g, 0.2594 mmol), N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (0.06216 g, 0.3243 mmol), and N,N-dimethylpyridin-4-amine (0.002641 g, 0.02162 mmol) were dissolved in CH2Cl2 (5 mL). Triethylamine (0.04375 g, 0.4323 mmol) was added and the solution was stirred at ambient temperature for 3 hours. Water was added and the solution was extracted with CH2Cl2, dried, filtered, and concentrated. The residue was purified by silica gel (1-2% MeOH in CH2Cl2) to give the title compound (0.1116 g, 83.30% yield). 1H NMR (d6-DMSO) δ 12.35 (s, 1H), 8.39 (d, 1H), 8.37 (m, 1H), 7.66 (dt, 1H), 7.47 (d, 1H), 7.42 (t, 2H), 7.21-7.11 (m, 5H), 6.73 (t, 1H), 4.29 (t, 1H), 3.81 (m, 3H), 3.20-3.02 (m, 2H), 2.81 (t, 1H), 2.01 (m, 2H), 1.76-1.53 (m, 2H), 1.38 (s, 9H).

reactant | 3-Phenoxy-N-(3-(piperidin-4-yl)-1,2,4-thiadiazol-5-yl)-5-(pyridin-2-ylthio)pyridin-2-amine | 0.2162 mmol, 0.100 g | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)C1CCNCC1 | C23H22N6OS2
reactant | 2-(tert-butoxycarbonyl)acetic acid | 0.2594 mmol, 0.04544 g | C(C)(C)(C)OC(=O)CC(=O)O | C7H12O4
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 0.3243 mmol, 0.06216 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Triethylamine | 0.4323 mmol, 0.04375 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
catalyst | N,N-dimethylpyridin-4-amine | 0.02162 mmol, 0.002641 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-oxo-2-(4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidin-1-yl)ethylcarbamate | 0.1116 g, 83.30% yield | O=C(CNC(OC(C)(C)C)=O)N1CCC(CC1)C1=NSC(=N1)NC1=NC=C(C=C1OC1=CC=CC=C1)SC1=NC=CC=C1 | C30H33N7O4S2
